US08871756B2
A solution of dipropan-2-yl 3,3-dimethoxycyclobutane-1,1-dicarboxylate (10.0 g, 34.6 mmol) in hydrochloric acid (3 N, 55 mL) was heated at 50° C. for 4 hours. The resulting mixture was neutralized with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate (100 mL). The combined organic layers were dried over sodium sulfate and concentrated in vacuo to afford 6.073 g of dipropan-2-yl 3-oxocyclobutane-1,1-dicarboxylate as a light brown oil (yield was 72.3%).

reactant | dipropan-2-yl 3,3-dimethoxycyclobutane-1,1-dicarboxylate | 34.6 mmol, 10.0 g | COC1(CC(C1)(C(=O)OC(C)C)C(=O)OC(C)C)OC | C14H24O6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 3 N, 55 mL | Cl | ClH
product | dipropan-2-yl 3-oxocyclobutane-1,1-dicarboxylate | 6.073 g, yield was 72.3% | O=C1CC(C1)(C(=O)OC(C)C)C(=O)OC(C)C | C12H18O5
